US04704477
1-(1,4,6-trimethylcyclohex-3-en-1-yl)-3-methylpropan-1-one.
The 1,4,6-trimethylcyclohex-3-ene-1-carbaldehyde according to the invention and the analogous ketones according to the invention are directly accessible by means of 1,4-cycloaddition of isoprene with tiglic aldehyde or with the corresponding 2-propenylalkyl ketones. The carbaldehyde according to the invention and the analogous ketones are directly accessible by 1,4-cycloaddition of tiglic aldehyde or the corresponding 2-propenylalkyl ketones with isoprene.

reactant | 1,4,6-trimethylcyclohex-3-ene-1-carbaldehyde | CC1(CC=C(CC1C)C)C=O | C10H16O
reactant | isoprene | C=CC(C)=C | C5H8
product | 1-(1,4,6-trimethylcyclohex-3-en-1-yl)-3-methylpropan-1-one | CC1(CC=C(CC1C)C)C(CCC)=O | C13H22O
